US07968538B2
N-(1-(3,5-Dimethoxyphenyl)ethyl-2-(methylsulfonyl)-5-(piperazin-1-yl)-benzeneamine hydrochloride
To a solution of N-(1-(3,5-dimethoxyphenyl)ethyl-2-(methylsulfonyl)-5-(piperazin-1-yl)-benzeneamine (500 mg, 1.19 mmol) in dichloromethane (5.0 mL) was added 1M solution of HCl in diethyl ether (25 mL). The reaction mixture was stirred for 3 h. The solvent was removed by rotary evaporation to afford the title compound (521 mg, 96% yield). 1H NMR (400 MHz, CD3OD): δ 7.55 (m, 1H), 6.57 (s, 3H), 6.36 (m, 1H), 5.49 (s, 1H), 4.61 (m, 1H), 3.75 (s, 6H), 3.41 (m, 4H), 3.25 (m, 4H), 3.18 (m, 2H), 3.21 (s, 3H), 1.55 (d, 3H); MS (ESI) m/z: Calculated for C21H30ClN3O4S: 455.16; Observed: 456.2 (M++1).

reactant | 1-(3,5-dimethoxyphenyl)ethyl-2-(methylsulfonyl)-5-(piperazin-1-yl)-benzeneamine | 1.19 mmol, 500 mg | COC=1C=C(C=C(C1)OC)C(C)C=1C(=C(C=C(C1)N1CCNCC1)N)S(=O)(=O)C | C21H29N3O4S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 1-(3,5-Dimethoxyphenyl)ethyl-2-(methylsulfonyl)-5-(piperazin-1-yl)-benzeneamine hydrochloride | 521 mg, 96% yield | Cl.COC=1C=C(C=C(C1)OC)C(C)C=1C(=C(C=C(C1)N1CCNCC1)N)S(=O)(=O)C | InChI=1S/C21H29N3O4S.ClH/c1-14(15-9-17(27-2)13-18(10-15)28-3)19-11-16(24-7-5-23-6-8-24)12-20(22)21(19)29(4,25)26;/h9-14,23H,5-8,22H2,1-4H3;1H
